spice
* SPICE Netlist for given schematic

Vsource1 6 0 DC 3V
Vsource2 5 0 DC -3V

* Transistors
Q1 3 4 2 NMOS
Q2 2 5 2 NMOS

* Resistors
R1 3 7 1k
R1_1 2 7 1k
R2 5 6 1k

* Voltage Sources
V1 4 0 DC <V1_value>
V2 5 0 DC <V2_value>

.model NMOS NMOS (LEVEL=1)

.end